Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Urinary incontinence, fibroid, menorrhagia
 
Major Surgical or Invasive Procedure:
Laparoscopic assisted vaginal hysterectomy, bilateral 
salpingectomy, lysis of adhesions, and cystoscopy

 
History of Present Illness:
___ is a ___ yrs. G2, P2, Term2, Preterm0, Abt0, Sab0, 
Tab0, Ect0, Live2 with symptoms of fibroid uterus, incontinence 
and menorrhagia.

She also known for a large fibroid uterus. She has bulk symptoms 
including pelvic discomfort as well, in the past, 
menorrhagia/abnormal uterine bleeding. She had a Mirena IUD 
placed in ___.  But at the beginning of ___ of this year she 
began having heavy bleeding. She was passing large clots. It was 
thought that she also passed out her IUD as a KUB was performed 
and did not show any IUD in place.

In ___, at her initial apt with me, she was counseled on 
treatment options for the fibroid and wished to pursue 
hysterectomy. She has completed childbearing.  She had a Lupron 
injection on ___. The intention was to help with the bleeding 
as well as to see if the fibroid would shrink, in preparation 
for hysterectomy.  
Repeat US on ___ revealed that the fibroid was not 
any smaller. See below.

She is getting hot flashes but has not been wanting to take the 
add-back hormonal therapy.

She also has urinary incontinence. She complains of constantly 
having a wet pad. She is not always aware of any trigger. She 
does occasionally leak with coughing and sneezing. She denies 
significant urge type incontinence. She voids every 2 hours in 
the daytime but does not find it too bothersome for frequent. 
She wakes up once at night to urinate. She changes her pad once 
a day. It is a panty liner.
 
Past Medical History:
Anemia, iron deficiency 
Esophageal reflux 
Low back pain 
Morbid obesity 
Polycystic ovaries 

 
Social History:
___
Family History:
Liver cancer - maternal aunt
 
Physical ___:
24 HR Data (last updated ___ @ 318)
    Temp: 98.3 (Tm 98.8), BP: 133/82 (133-134/82-85), HR: 71
(71-99), RR: 18, O2 sat: 98% (96-98), O2 delivery: RA
Fluid Balance (last updated ___ @ 515)
  Last 8 hours  Total cumulative 643ml
    IN: Total 1803ml, PO Amt 600ml, IV Amt Infused 1203ml
    OUT:  Total 1160ml, Urine Amt 1160ml
  Last 24 hours  Total cumulative 643ml
    IN: Total 1803ml, PO Amt 600ml, IV Amt Infused 1203ml
    OUT:  Total 1160ml, Urine Amt 1160ml

General: NAD, comfortable
Lungs: no resp distress
Abdomen: soft, non-distended, appropriately tender to palpation,
dressing clean/dry/intact
GU: pad with no spotting, foley with pyridium stained urine
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 08:01PM   WBC-20.8* RBC-5.08 HGB-11.6 HCT-37.5 MCV-74* 
MCH-22.8* MCHC-30.9* RDW-17.0* RDWSD-45.8
___ 08:01PM   PLT COUNT-286
___ 08:01PM   ___ PTT-22.4* ___
___ 08:01PM   ___ 12:30PM   WBC-7.1 RBC-5.15 HGB-12.0 HCT-37.7 MCV-73* 
MCH-23.3* MCHC-31.8* RDW-16.9* RDWSD-45.0
___ 12:30PM   PLT COUNT-276
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing LAVH, BS, lysis of adhesions, cysto for 
symptomatic fibroid, urinary incontinence, and menorrhagia. 
Please see the operative report for full details. Her 
post-operative course was uncomplicated. Immediately post-op, 
her pain was controlled with IV dilaudid and toradol.

On post-operative day 1, her urine output was adequate, so her 
foley was removed. Her first TOV she had a PVR >400. She 
ambulated and subsequently passed her next TOVs. Her diet was 
advanced without difficulty, and she was transitioned to PO 
oxycodone, ibuprofen, and aceatminophen. She was tolerating a 
regular diet, voiding spontaneously, ambulating independently, 
and pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg/15 mL ___ tablet(s) by mouth every six 
(6) hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild/Fever NOT relieved 
by Acetaminophen 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroid, urinary incontinence, and menorrhagia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
Laparoscopic assisted vaginal hysterectomy, bilateral 
salpingectomy, lysis of adhesions, and cystoscopy for 
symptomatic fibroids, urinary incontinence, and menorrhagia. You 
have recovered well and the team believes you are ready to be 
discharged home. Please call Dr. ___ office with any questions 
or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___